US04223136
To a suspension of 25 parts of a 1:1 solvate of 2,3-dihydro-8-nitro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile in 1000 parts of glacial acetic acid is added a solution of 75 parts of stannous chloride dihydrate in 230 parts of 28% hydrochloric acid. The resultant mixture is heated at the boiling point under reflux with stirring for 2 hours, then chilled. Insoluble solids are filtered out and dissolved in a mixture of 1100 parts of sulfinylbis[methane] with 200 parts of water. This solution is basified with concentrated ammonium hydroxide and thereupon diluted with 1 volume of water. The precipitate which forms is filtered off and consecutively recrystallized from (1) a mixture of sulfinylbis[methane] and methanol and (2) a mixture of sulfinylbis[methane], N,N-dimethylformamide, and water to give 8-amino-2,3-dihydro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile melting above 305°.

reactant | 2,3-dihydro-8-nitro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile | [N+](=O)([O-])C1=CC2=C(NC=3C(S2)=CNC(C3C#N)=O)C=C1 | C12H6N4O3S
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-amino-2,3-dihydro-3-oxo-5H-pyrido[3,4-b][1,4]benzothiazine-4-carbonitrile | NC1=CC2=C(NC=3C(S2)=CNC(C3C#N)=O)C=C1 | C12H8N4OS
